US03943125
Under a nitrogen atmosphere, a mixture of 3,5-dinitro-2,6-pyridine dimethanesulfonamide (50 g, 0.14 mole), 200 ml aniline and 250 ml N,N-dimethylacetamide was heated with stirring to 140°C and then maintained at this temperature for 6 hours. The warm (90°C) mixture was poured onto 450 ml methanol with stirring and 20 ml triethylamine added. The precipitate was washed with methanol and dried to afford 2,6-dianilino-3,5-dinitropyridine (34.5 g, 70%) as an orange solid, mp. 224-225.5. Anal. Calcd. for C17H13N5O4 : C, 58.1; H, 3.7. Found: c, 57.4; H, 3.4.

reactant | 3,5-dinitro-2,6-pyridine dimethanesulfonamide | 0.14 mole, 50 g | [N+](=O)([O-])C=1C(=NC(=C(C1)[N+](=O)[O-])CS(=O)(=O)N)CS(=O)(=O)N | C7H9N5O8S2
reactant | aniline | 200 ml | NC1=CC=CC=C1 | C6H7N
reactant | N,N-dimethylacetamide | 250 ml | CN(C(C)=O)C | C4H9NO
reactant | methanol | 450 ml | CO | CH4O
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
product | 2,6-dianilino-3,5-dinitropyridine | 34.5 g, 70% | N(C1=CC=CC=C1)C1=NC(=C(C=C1[N+](=O)[O-])[N+](=O)[O-])NC1=CC=CC=C1 | C17H13N5O4
